US08334292B1
Step 3: Preparation of 4-(azetidin-3-yloxy)-5-bromo-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine
To tert-butyl 3-(5-bromo-2-(cis-4-methylcyclohexylamino)pyrimidin-4-yloxy)azetidine-1-carboxylate (6.5 g, 14 mmol) in DCM (25 mL) was added TFA (4 mL). The mixture was stirred at room temperature for 4 h, diluted with DCM, washed with 1N NaOH solution, water, dried over sodium sulfate, filtered and concentrated to dryness. MS (ESI) m/z Calc. 340.1 (M+). Found: 342.1 (M++2).

reactant | tert-butyl 3-(5-bromo-2-(cis-4-methylcyclohexylamino)pyrimidin-4-yloxy)azetidine-1-carboxylate | 14 mmol, 6.5 g | BrC=1C(=NC(=NC1)N[C@@H]1CC[C@@H](CC1)C)OC1CN(C1)C(=O)OC(C)(C)C | C19H29BrN4O3
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(azetidin-3-yloxy)-5-bromo-N-(cis-4-methylcyclohexyl)pyrimidin-2-amine | N1CC(C1)OC1=NC(=NC=C1Br)N[C@@H]1CC[C@@H](CC1)C | C14H21BrN4O
